US06015697
Pyrophosphoric acid (15 g/dl) and 8 g/dl of inosine were dissolved in an acetate buffer (pH 4.0). To the solution was added E. coli JM109 strain having introduced therein the above-mentioned mutant and wild-type acid phosphatase genes such that the concentration reached 200 mg/dl in terms of the dry cell weight. The reaction was conducted at 35° C. for 32 hours while maintaining the pH at 4.0, and the amount of 5'-inosinic acid formed over the course of time was measured. Inosinic acid formed was only 5'-inosinic acid, and the formation of 2'-inosinic acid and 3'-inosinic acid as by-products was not observed at all. The results are shown in FIG. 8.

reactant | Pyrophosphoric acid | P(=O)(O)(O)OP(=O)(O)O | H4O7P2
reactant | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
solvent | acetate | pH 4.0 | C(C)(=O)[O-]
product | 5'-inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
